### PR TITLE
feat(ErdosProblems): 961

### LINKED ISSUE #1038: Erdős Problem 961
### What is the conjecture

https://www.erdosproblems.com/961

  Let $f(k)$ be the minimal $n$ such that every set of $n$ consecutive integers $>k$ contains an integer divisible by a prime $>k$. Estimate $f(k)$.

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #1038

### CODE REVIEW

File: FormalConjectures/ErdosProblems/961.lean [hunk 1]
```diff
@@ -0,0 +1,75 @@
...
+# Erdős Problem 961
+
+*Reference:* [erdosproblems.com/961](https://www.erdosproblems.com/961)
+-/
+
+open Classical Filter Real
+
+namespace Erdos961
+
+noncomputable def Erdos961 (k n : ℕ) : Prop :=
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/961.lean]:
```suggestion
noncomputable def Erdos961Prop (k n : ℕ) : Prop :=
```
to avoid the duplicated namespace warning

File: FormalConjectures/ErdosProblems/961.lean [hunk 2]
```diff
@@ -0,0 +1,75 @@
...
+@[category research solved, AMS 11]
+theorem erdos_961.well_defined (k : ℕ) : ∃ n, Erdos961 k n := by
+  use k
+  exact erdos_961.sylvester_schur k
+
+/--
+For $k$, let $f(k)$ be the minimal $n$ such that every set of $n$ consecutive integers $>k$ contains
+an integer divisible by a prime $>k$, i.e. not $(k+1)$-smooth.
+-/
+noncomputable def Erdos961_f (k : ℕ) : ℕ := Nat.find (erdos_961.well_defined k)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/961.lean]: Maybe just
```suggestion
noncomputable def f (k : ℕ) : ℕ := Nat.find (erdos_961.well_defined k)
```
since you are already in `namespace Erdos961`

File: FormalConjectures/ErdosProblems/961.lean [hunk 3]
```diff
@@ -0,0 +1,75 @@
...
+  sorry
+
+/--
+Jutila [Ju74], and Ramachandra--Shorey [RaSh73] proved a stronger upper bound
+$f(k) \ll \frac{\log \log \log k}{\log \log k} \frac{k}{\log k}$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_961.jutila_ramachandra_shorey_upper_bound :
+    (fun k => (Erdos961_f k : ℝ)) =O[atTop]
+      fun k => (log (log (log (k : ℝ))) / log (log (k : ℝ))) * ((k : ℝ) / log (k : ℝ)) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/961.lean]: You shouldn't need any type ascription here
```suggestion
      fun k => log (log (log k)) / log (log k) * (k / log k) := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

File: FormalConjectures/ErdosProblems/961.lean [hunk 4]
```diff
@@ -0,0 +1,74 @@
...
+Erdos [Er55d] proved $f(k) < 3 \frac{k}{\log k}$ for sufficiently large $k$.
+-/
+@[category research solved, AMS 11]
+theorem erdos_961.erdos_upper_bound :
+    ∀ᶠ k in atTop, f k < 3 * k / log k := by
+  sorry
+
+/--
+Jutila [Ju74], and Ramachandra--Shorey [RaSh73] proved a stronger upper bound
+$f(k) \ll \frac{\log \log \log k}{\log \log k} \frac{k}{\log k}$.
```
Comment (felixpernegger) [inline FormalConjectures/ErdosProblems/961.lean:67]: These are missing in the references

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/961.lean:67]: Whoops, feel free to open a PR fixing this

Comment (seewoo5) [reply FormalConjectures/ErdosProblems/961.lean:67]: Oops, I just made [PR](https://github.com/google-deepmind/formal-conjectures/pull/1879), thank you for catching out this!
